US05217999
2 g (15 mmol) 3,4-Dihydroxybenzaldehyde, 3 g (21 mmol) of tert-butyl cyanoacetate and 0.5 ml of piperidine in 50 ml ethanol were heated to reflux for 1 hour, poured into water, filtered, washed and dried to yield 2.5 g (yield 66%) of tert-butyl α-cyano-3,4-dihydroxycinnamate as a yellow solid.

reactant | 3,4-Dihydroxybenzaldehyde | 15 mmol, 2 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | tert-butyl cyanoacetate | 21 mmol, 3 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | tert-butyl α-cyano-3,4-dihydroxycinnamate | 2.5 g, yield 66% | C(#N)C(C(=O)OC(C)(C)C)=CC1=CC(=C(C=C1)O)O | C14H15NO4
